US07700625B2
2-(2,4-Dimethoxy-benzyl)-4-(2-dimethylamino-ethoxy)-isoindole-1,3-dione
A mixture of 2-(2,4-dimethoxy-benzyl)-4-hydroxy-isoindole-1,3-dione (317 mg, 1.01 mmol), 2-dimethylaminoethyl chloride hydrochloride (160 mg, 1.11 mmol) and potassium carbonate (350 mg, 2.5 mmol) in DMF (4 mL) was heated at 60° C. for 18 hours. The mixture was concentrated in vacuo, taken up in ethyl acetate and extracted twice with 1N hydrochloric acid. The aqueous extracts were made basic with solid potassium carbonate and extracted with ethyl acetate (×2). The combined organic extracts were washed with brine, dried (MgSO4) and concentrated to give the title compound (236 mg, 61%) as an off-white solid. 1H NMR (methanol-d4) 7.73 (1H, t), 7.44-7.40 (2H, m), 7.02 (1H, d), 6.51 (1H, d), 6.42 (1H, dd), 4.72 (2H, s), 4.33 (2H, t), 3.80 (3H, s), 3.76 (3H, s), 2.87 (2H, t), 2.40 (6H, s). MS: [M+H]+ 385.

reactant | 2-(2,4-dimethoxy-benzyl)-4-hydroxy-isoindole-1,3-dione | 1.01 mmol, 317 mg | COC1=C(CN2C(C3=CC=CC(=C3C2=O)O)=O)C=CC(=C1)OC | C17H15NO5
reactant | 2-dimethylaminoethyl chloride hydrochloride | 1.11 mmol, 160 mg | Cl.CN(CCCl)C
reactant | potassium carbonate | 2.5 mmol, 350 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(2,4-Dimethoxy-benzyl)-4-(2-dimethylamino-ethoxy)-isoindole-1,3-dione | 236 mg, 61% | COC1=C(CN2C(C3=CC=CC(=C3C2=O)OCCN(C)C)=O)C=CC(=C1)OC | C21H24N2O5
